US07335648B2
3-{2,2-Dimethyl-6-[6-(3-phenyl-ureido)-purin-9-yl]-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl}-acrylic acid methyl ester
To a vial containing the starting compound, 1-[9-(6-Hydroxymethyl-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl)-9H-purin-6-yl]-3-phenyl-urea (1.07 g, 2.5 mmol), in 10 ml of dimethylsulfoxide was added IBX (1.06 g, 3.75 mmol) in one portion at RT. The white solid gradually dissolved as the reaction proceeded. After stirring at RT for 2 hours, methyl(triphenylphosphorylidene) acetate (0.84 g, 2.5 mmol) was added in one portion. The reaction was run at RT overnight. To the reaction mixture was added ethyl acetate (100 ml), which was washed with saturated NaHCO3, brine, and dried over MgSO4. After removal of solvent, the residue was recrystallized with isopropyl alcohol to provide the title compound. MW calculated for C23H24N6O6 (MH+) 481.5 found 481.3 by LCMS.

reactant | 1-[9-(6-Hydroxymethyl-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl)-9H-purin-6-yl]-3-phenyl-urea | 2.5 mmol, 1.07 g | OCC1OC(C2C1OC(O2)(C)C)N2C1=NC=NC(=C1N=C2)NC(=O)NC2=CC=CC=C2 | C20H22N6O5
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 3-{2,2-Dimethyl-6-[6-(3-phenyl-ureido)-purin-9-yl]-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl}-acrylic acid methyl ester | COC(C=CC1OC(C2OC(OC21)(C)C)N2C1=NC=NC(=C1N=C2)NC(=O)NC2=CC=CC=C2)=O | C23H24N6O6
